US05288726
1-(2-Chlorophenyl)-3,3,3-trifluoro-2-propanone
10 ml of anhydrous diethyl ether were added to 0.9 g (37.0 mmole) of metallic magnesium, and then a solution of 3.9 ml (30.8 mmole) of 2-chlorobenzyl chloride in 10 ml of diethyl ether was slowly added dropwise to the resulting mixture, with vigorous stirring, over a period of 30 minutes; the mixture was then stirred at room temperature for 1 hour. The resulting solution was slowly added dropwise to a solution of 4.3 ml (30.8 mmole) of trifluoroacetic anhydride in 40 ml of tetrahydrofuran, whilst cooling to about -70° C., and then the mixture was allowed to return to room temperature, whilst stirring, over a period of about 1 hour; after this, the mixture was left to stand overnight. At the end of this time, 200 ml of ethyl acetate were added to the resulting reaction mixture, and the organic layer was separated, washed with IN aqueous hydrochloric acid and with a saturated aqueous solution of sodium chloride, in that order, dried over anhydrous sodium sulfate and concentrated by evaporation under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography, using a 10:2 by volume mixture of toluene and ethyl acetate as the eluent, to give 5.7 g of the title compound as a yellow oil.

reactant | magnesium | 37.0 mmole, 0.9 g | [Mg] | Mg
reactant | 2-chlorobenzyl chloride | 30.8 mmole, 3.9 ml | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | trifluoroacetic anhydride | 30.8 mmole, 4.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-Chlorophenyl)-3,3,3-trifluoro-2-propanone | 5.7 g | ClC1=C(C=CC=C1)CC(C(F)(F)F)=O | C9H6ClF3O
